Multiply Test for W=0 & A=1
* ============================================
* Test: mult_w0a1_test.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/designs/pvt.spice
.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice
.include /workspace/analog/tb/9T_tb.spice

* -- stimulus --
VVDD vdd  0 {VDD_CORNER}  ; supply
VVSS vss  0 0             ; source
VWL  wl   0 0             ; reads: OFF
VBL  wbl  0 0             ; bitlines parked (or floating)
VBLB wblb 0 0             ; bitlines parked (or floating)
VA   a    0 {VDD_CORNER}  ; set Activation = HI

* -- initial conditions --
.ic v(q)=0 v(qb)={VDD_CORNER}

* -- sim --
.control
  save all

  * --- start transient analysis --- 
  tran 0.1n 200n uic

  * --- validate data ---
  echo
  meas tran w_init FIND v(q)   AT=15n
  meas tran a_init FIND v(a)   AT=15n
  meas tran o_init FIND v(rbl) AT=15n
  echo
  meas tran w_final FIND v(q)   AT=200n
  meas tran a_final FIND v(a)   AT=200n
  meas tran o_final FIND v(rbl) AT=200n
  echo

  * -- display results ---
  plot q a rbl
  + title "(W, A) == (0, 1)"
  + xlabel "time (s)"
  + ylabel "voltage (V)"

  * --- save .raw for python parsing ---
  write /workspace/analog/sim/9t/results/mult_w0a1_test.raw all

.endc

.end